US08232284B2
5-(2,2-Diethoxyethoxy)-2-fluoropyridine (680 mg, 3.0 mmol) and potassium tert-butoxide (670 mg, 5.9 mmol) were added to a dimethyl sulfoxide solution (10 ml) of 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol (500 mg, 1.97 mmol), and stirred under a nitrogen atmosphere at 130° C. for 24 hours. The reaction solution was cooled to room temperature, and extracted with a mixed solution of chloroform/methanol (9:1). The organic layer was washed with aqueous saturated ammonium chloride solution and saturated saline water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=95:5) to obtain 6-{[5-(2,2-diethoxyethoxy)pyridin-2-yl]oxy}-N-(5-methylpyrazin-2-yl)quinazoline-4-amine (730 mg, yield: 80%) as a yellow solid.

reactant | 5-(2,2-Diethoxyethoxy)-2-fluoropyridine | 3.0 mmol, 680 mg | C(C)OC(COC=1C=CC(=NC1)F)OCC | C11H16FNO3
reactant | potassium tert-butoxide | 5.9 mmol, 670 mg | CC(C)([O-])C.[K+]
reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | 1.97 mmol, 500 mg | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 6-{[5-(2,2-diethoxyethoxy)pyridin-2-yl]oxy}-N-(5-methylpyrazin-2-yl)quinazoline-4-amine | 730 mg, yield: 80% | C(C)OC(COC=1C=CC(=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C)OCC | C24H26N6O4
